US07569561B2
b) (R)-1-(2-amino-6-nitro-benzoyl)-2-methyl-pyrrolidine-2-carboxylic acid
930 mg (3.02 mmol) methyl(R)-1-(2-amino-6-nitro-benzoyl)-2-methyl-pyrrolidine-2-carboxylate are dissolved in 3 mL 20% ethanolic KOH and stirred for 1.5 h at 50° C. Then the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier material used is silica gel and the eluant used is dichloromethane, to which 15% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution has been added.

reactant | methyl(R)-1-(2-amino-6-nitro-benzoyl)-2-methyl-pyrrolidine-2-carboxylate | 3.02 mmol, 930 mg | NC1=C(C(=O)N2[C@](CCC2)(C(=O)OC)C)C(=CC=C1)[N+](=O)[O-] | C14H17N3O5
solvent | KOH | 3 mL | [OH-].[K+]
product | (R)-1-(2-amino-6-nitro-benzoyl)-2-methyl-pyrrolidine-2-carboxylic acid | NC1=C(C(=O)N2[C@](CCC2)(C(=O)O)C)C(=CC=C1)[N+](=O)[O-] | C13H15N3O5
